US08124793B2
A solution of 1.25 g of KMnO4 and 7.8 mL of conc. HCl in 115 mL of ice cooled H2O was stirred for 2 hrs. To this solution was added 2.02 g of ethylene methanedisulfonate in 25 mL of 0.5 molar NaOH. The solid obtained after acidification was placed in 15 mL of 0.5 M NaOH and the filtrate acidified to give 1.1 g of ethylene chloromethanedisulfonate, m.p. 85-88° C. (91-6).

reactant | KMnO4 | 1.25 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | HCl | 7.8 mL | Cl | ClH
reactant | H2O | O | H2O
reactant | ethylene methanedisulfonate | 2.02 g | C1S(=O)(=O)OCCOS1(=O)=O | C3H6O6S2
solvent | NaOH | 0.5 molar, 25 mL | [OH-].[Na+]
solvent | NaOH | 0.5 M, 15 mL | [OH-].[Na+]
product | ethylene chloromethanedisulfonate | 1.1 g | ClC1S(=O)(=O)OCCOS1(=O)=O | C3H5ClO6S2
